US06162824
(jj) 1-methyl-9-phenyl-9H-fluoren-9-ol:
from phenylmagnesium chloride and 1-methyl-9-fluorenone;

reactant | phenylmagnesium chloride | C1(=CC=CC=C1)[Mg]Cl
reactant | 1-methyl-9-fluorenone | CC1=CC=CC=2C3=CC=CC=C3C(C12)=O | C14H10O
product | 1-methyl-9-phenyl-9H-fluoren-9-ol | CC1=CC=CC=2C3=CC=CC=C3C(C12)(O)C1=CC=CC=C1 | C20H16O
